US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Step 1 of Example 1 was repeated except that cyclopentylcarbonyl chloride was used instead of pivaloyl chloride, and that 2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine obtained from Referential Example 4 was used instead of 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine, to thereby obtain the title compound.

reactant | cyclopentylcarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
product | 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(=O)C2CCCC2)NC(=O)OC(C)(C)C | C21H29N3O4
